US05922717
a) N-Acetyl-N-[1-benzyl-4-piperidinyl]-glycine methyl ester hydrochloride
Prepared from N-[1-benzyl-4-piperidinyl]glycine methyl ester hydrochloride and acetic anhydride.

reactant | N-[1-benzyl-4-piperidinyl]glycine methyl ester hydrochloride | Cl.COC(CNC1CCN(CC1)CC1=CC=CC=C1)=O
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | N-Acetyl-N-[1-benzyl-4-piperidinyl]-glycine methyl ester hydrochloride | Cl.COC(CN(C1CCN(CC1)CC1=CC=CC=C1)C(C)=O)=O | InChI=1S/C17H24N2O3.ClH/c1-14(20)19(13-17(21)22-2)16-8-10-18(11-9-16)12-15-6-4-3-5-7-15;/h3-7,16H,8-13H2,1-2H3;1H
